US07232826B2
[1-(3-Amino-5-methyl-4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester
5-Fluoro-3-methyl-2-nitro-phenylamine (0.97 g, 5.7 mmol), 4-N-BOC-aminopiperidine (1.60 g, 8.0 mmol), diisopropylethylamine (2.5 ml, 14 mmol) and DMSO (10 ml) are combined and stirred at 85° C. for 3 hours. The reaction mixture was poured on saturated aqueous NaHCO3 solution and extracted with ethyl acetate. The organic layers were washed with water (3×) and brine, dried over Na2SO4 and concentrated. Flash column chromatography on silica (eluent hexanes-ethyl acetate-triethylamine 50-50-1, then 33-66-1) gave the title compound as a yellow solid. (1.57 g, 79%). LCMS (M+H)+ m/z 351 (t=1.55 min.). 1H NMR (500 MHz, CD3OD) δ 6.70 (1H, broad s), 6.22 (1H, d, J=2.5 Hz)), 6.13 (1H, d, J=2.5 Hz), 3.88 (2H, d, J=13.3 Hz), 3.58 (1H, broad s), 2.98 (2H, t, J=11.8 Hz), 2.48 (3H, s), 1.92 (2H, J=11.3 Hz), 1.48 (2H, m), 1.45 (9H, s).

reactant | 5-Fluoro-3-methyl-2-nitro-phenylamine | 5.7 mmol, 0.97 g | FC=1C=C(C(=C(C1)N)[N+](=O)[O-])C | C7H7FN2O2
reactant | 4-N-BOC-aminopiperidine | 8.0 mmol, 1.60 g | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | diisopropylethylamine | 14 mmol, 2.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | [1-(3-Amino-5-methyl-4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC(=C(C(=C1)C)[N+](=O)[O-])N)=O | C17H26N4O4
